US08003649B2
TFA (2 mL) was added in one portion to tert-butyl 4-(6-hydrazinylpyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate (480 mg, 1.65 mmol) which dissolved with a vigorous effervescence. The solution was stirred for 24 hours at 70° C. The solution was evaporated and the residue was dissolved in methanol. It was run on an SCX cartridge, eluting with 2M ammonia in methanol. Product containing fractions were evaporated to dryness and triturated with ether to afford 6-(1,2,3,6-tetrahydropyridin-4-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (90 mg, 20.29%) as a cream solid.

reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 4-(6-hydrazinylpyridazin-3-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.65 mmol, 480 mg | N(N)C1=CC=C(N=N1)C1=CCN(CC1)C(=O)OC(C)(C)C | C14H21N5O2
product | 6-(1,2,3,6-tetrahydropyridin-4-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 90 mg, 20.29% | N1CCC(=CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C11H10F3N5
